US08440652B2
General method D was applied to N-ethyl-N-methyl-6-(trimethylstannyl)pyridine-3-sulfonamide (218 mg, 0.6 mmol) and 2-(2-amino-5-bromopyridin-3-yl)-4H-thieno[2,3-c]pyrrol-6(5H)-one (186 mg, 0.6 mmol) to give 6′-amino-N-ethyl-N-methyl-5′-(6-oxo-5,6-dihydro-4H-thieno[2,3-c]pyrrol-2-yl)-[2,3′-bipyridine]-5-sulfonamide as a yellow solid (94 mg, 38% yield) after purification by preparatory reverse phase HPLC. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.91 (d, J=1.5 Hz, 1H), 8.87 (d, J=2.3 Hz, 1H), 8.44 (s, 1H), 8.26 (d, J=2.3 Hz, 1H), 8.10-8.20 (m, 2H), 7.43 (s, 1H), 6.65 (s, 2H), 4.35 (s, 2H), 3.30 (s, 4H), 3.09 (dd, J=14.3, 7.0 Hz, 2H), 2.72 (s, 3H), 1.06 (t, J=7.0 Hz, 3H); MS (EI) m/z=430 [M+1]+.

reactant | N-ethyl-N-methyl-6-(trimethylstannyl)pyridine-3-sulfonamide | 0.6 mmol, 218 mg | C(C)N(S(=O)(=O)C=1C=NC(=CC1)[Sn](C)(C)C)C
reactant | 2-(2-amino-5-bromopyridin-3-yl)-4H-thieno[2,3-c]pyrrol-6(5H)-one | 0.6 mmol, 186 mg | NC1=NC=C(C=C1C1=CC2=C(C(NC2)=O)S1)Br | C11H8BrN3OS
product | 6′-amino-N-ethyl-N-methyl-5′-(6-oxo-5,6-dihydro-4H-thieno[2,3-c]pyrrol-2-yl)-[2,3′-bipyridine]-5-sulfonamide | 94 mg, 38% yield | NC1=C(C=C(C=N1)C1=NC=C(C=C1)S(=O)(=O)N(C)CC)C1=CC2=C(C(NC2)=O)S1 | C19H19N5O3S2
